* =============================================================================
* JUG — theta COMPARATOR + RESIDUE SUBTRACTION
* File:      jug_compare.spice
* Process:   SkyWater Sky130A  (sky130_fd_pr)
* Simulator: ngspice 37+
*
* =============================================================================
* ★★ WHAT THIS BLOCK IS, AND WHAT IT IS NOT
* =============================================================================
*
*   Ce accumulates signed (delta * x) charge injections and IS NEVER DISCHARGED.
*   A SHARED comparator, swept across the array by absorb_ctrl, tests each cell once
*   per sweep:
*
*       |V_Ce - V_bias_e| >= theta ?
*           YES ->  FIRE:  W-SRAM code +- 1        (a DIGITAL increment — see below)
*                          V_Ce  -=  sign * theta   ← SUBTRACT. The residue is KEPT.
*           NO  ->  nothing. The charge stays on Ce.
*
* ── ⚠ THERE IS NO CHARGE PUMP INTO Cw. ──────────────────────────────────────
* An earlier spec called for "deposit 1.405 fC on Cw = one 7.02 mV step".  THAT WAS WRONG.
* It assumed a LINEAR weight DAC (every code = 7.02 mV of V_w).  The DAC is now
* **PRE-DISTORTED** (a calibration LUT: code -> V_w chosen so the WEIGHT steps are uniform —
* see THE_WEIGHT_IS_NOT_LINEAR.md), so a code is a NON-UNIFORM V_w step: small in the steep
* region of the cell's sigmoid, large at the rails.  A fixed-charge pump would give a fixed
* VOLTAGE step, which is precisely the wrong thing.
*
* ** A FIRE IS A +-1 INCREMENT ON THE 8-BIT W-SRAM CODE. **  The existing weight_dac +
* refresh_ctrl path repaints Cw through the LUT.  No new analog write path is needed:
*   - W-SRAM is always the current master  => refresh never has to be disabled
*   - `save` is not needed during training  => the absorb->save->sync->refresh cycle collapses
*   - the W-cap leak risk goes away STRUCTURALLY, not by scheduling
*
* ⇒ THIS BLOCK'S ONLY ANALOG JOB IS ON Ce:  compare it, and subtract theta from it.
*
* =============================================================================
* ★★★ WHAT MUST BE EXACT, AND WHAT MAY BE SLOPPY
* =============================================================================
*
* THE COMPARATOR MAY BE SLOPPY.  Measured on the bit-accurate model (ref 81.96%):
*     * offset may be a LARGE FRACTION of theta   -> x2 threshold mismatch costs 0.76pp
*     * it may get the SIGN WRONG **20% of the time** -> costs 0.34pp
*     * Ce matching is a NON-REQUIREMENT          -> 10x log-normal spread costs 0.58pp
*   WHY the sign errors are free: a wrong fire moves W the wrong way AND subtracts theta in
*   the wrong direction — i.e. it PUTS THE CHARGE BACK.  The next correct fire undoes both.
*   **CHARGE IS CONSERVED, so the error self-corrects.**
*
* ⚠ THE RESIDUE SUBTRACTION MUST BE EXACT.  It is the ONE tight analog spec in the design.
*   Discharging Ce (the OLD absorb's step 4) throws away exactly the sub-threshold charge the
*   mechanism exists to accumulate.  Subtracting theta makes this a true SIGMA-DELTA: no
*   charge, and therefore no learning signal, is ever lost.
*
*   ** The sigma-delta can forgive a bad DECISION.  It cannot forgive a LIE ABOUT HOW MUCH
*      CHARGE IS THERE. **  (This is also why kT/C noise on Ce is the one tight NOISE spec:
*      sigma <= 0.1 * theta.  See PHYSICAL_SPEC.md §3.)
*
* =============================================================================
* THE SUBTRACTION MECHANISM — a PULSED CURRENT SOURCE (Q = I*t)
* =============================================================================
*
* ⚠⚠ WHAT DOES **NOT** WORK — and SPICE caught it on the first run:
*
*   A FLYING CAPACITOR whose top plate sits permanently on the Ce node CANNOT REMOVE CHARGE.
*   Switching its bottom plate VREF->VSS drops V_Ce by (C_fb/Ce)*VREF — and then, the moment
*   the switch releases and the bottom plate returns to VREF, **V_Ce BOUNCES STRAIGHT BACK.**
*   Measured: 1.0235 V -> 0.9757 V (a clean 47.8 mV = theta) -> 1.0234 V.  NET CHARGE REMOVED:
*   **ZERO.**  The capacitor only COUPLES the charge; it does not take it away.
*
*   ** MOVING charge is not REMOVING charge. **  A capacitor on the node cannot do it without a
*   virtual ground (an op-amp summing node) — and we are not paying for an op-amp per cell.
*
* ⇒ WHAT WORKS: a **PULSED CURRENT SOURCE**.
*
*       Q = I * t      — a FIXED charge, genuinely removed, INDEPENDENT of V_Ce.
*
*   This is how sigma-delta modulators build their feedback DACs, and for exactly this reason.
*
*       Q_theta = Ce * theta = 100 fF * 50 mV = 5 fC
*       => I = 500 nA for t = 10 ns   (the PRODUCT is what matters; a wider, weaker pulse
*          is easier to control and easier to simulate than a 1 ns, 5 uA spike)
*
*   * fire_up -> an NMOS current SINK pulls 5 fC OFF Ce   => V_Ce drops by theta
*   * fire_dn -> a  PMOS current SOURCE pushes 5 fC ONTO Ce => V_Ce rises by theta
*
*   ⚠ THE PULSE WIDTH IS PART OF THE SPEC.  The fire pulse must be a FIXED-WIDTH one-shot
*   generated by absorb_ctrl — NOT the full sweep strobe.  Gating the current source with a
*   100 ns strobe instead of a 1 ns one-shot would remove 100x the intended charge.
*
*   ⚠ COMPLIANCE: the current source must stay in saturation across Ce's whole swing
*   (V_bias +- ~150 mV). That is what makes Q independent of V_Ce.  Check it in tb_jug_fire.
*
* PRECISION: theta_subtract is set by I (a current mirror — matched) and t (a digital pulse
* width — a clock).  theta_compare is set by a voltage reference.  They do NOT automatically
* track, so:
*   ⚠ theta_subtract >= theta_compare is the SAFE direction.  If the subtraction were SMALLER
*   than the threshold, a fired cell would still be above threshold and would fire again on the
*   very next sweep — the firing rate would climb until it did drop below.  Self-limiting, not
*   a runaway, but it inflates the effective learning rate.
*   ** AND THE TOLERANCE IS LOOSE: a x2 threshold mismatch across the die costs 0.76pp. **
*
* All W/L in MICRONS.  Capacitors in Farads.
* =============================================================================


* =============================================================================
* Subcircuit: jug_residue — PULSED-CURRENT theta subtraction
* =============================================================================
* Ports:
*   ve       the Ce node (jug voltage)             <- shared with mac_cell_jug
*   vdump    the STEERING DUMP node ★              <- tie to V_bias_e (see below)
*   fire_up  FIXED-WIDTH one-shot: remove +theta of charge from Ce  (fired POSITIVE)
*   fire_dn  FIXED-WIDTH one-shot: add    +theta of charge to   Ce  (fired NEGATIVE)
*   vbn      NMOS current-mirror bias (sets I_theta)
*   vbp      PMOS current-mirror bias (sets I_theta)
*   vcn      NMOS CASCODE bias   ★ (holds MN_src's drain fixed => the mirror actually mirrors)
*   vcp      PMOS CASCODE bias   ★
*   vdd vss
*
* Q_theta = I_theta * t_pulse.  With I = 5 uA and t = 1 ns: Q = 5 fC = 50 mV on Ce = 100 fF.
* -----------------------------------------------------------------------------
.subckt jug_residue ve vdump fire_up fire_dn vbn vbp vcn vcp vdd vss

* -- SINK: pull charge OFF Ce (V_Ce drops by theta) -------------------------
* Current path:  ve --[MN_sw]--> nsink --[MN_cas CASCODE]--> ncas --[MN_src]--> vss
*
* ★ CASCODED.  Without the cascode the mirror delivered 724 nA against a 500 nA target — a 45%
*   GAIN ERROR from channel-length modulation: MN_src's drain (nsink) sat at a very different
*   voltage from the diode's drain in the bias branch, so the mirror did not mirror.
*   Measured step was 72 mV instead of the 50 mV theta.
*   MN_cas holds MN_src's drain at a FIXED voltage (~vcn - Vth) regardless of V_Ce, which fixes
*   BOTH the gain error AND the residual V_Ce dependence of the charge packet.
*
* ⚠ AND NOTE THE TOLERANCE: even the UNCASCODED 45% over-subtraction was ACCEPTABLE. It errs in
*   the SAFE direction (theta_subtract > theta_compare => a fired cell drops CLEANLY below
*   threshold instead of re-firing next sweep), and a x2 threshold mismatch across the die costs
*   only 0.76pp. The cascode is good engineering, not a rescue.
* =============================================================================
* ⚠⚠⚠ YOU MUST **STEER** THE CURRENT, NOT **SWITCH** IT.  SPICE FOUND THIS.
* =============================================================================
* First attempt: a switch in series with the current source (ve -[SW]- mirror - vss).
* The step did NOT scale with I:  500 nA -> 96 mV, 260 nA -> 74.5 mV.  Extrapolating to I = 0
* leaves **~50 mV of FIXED charge** arriving regardless of the current — as much as theta itself.
*
* It is NOT the switch's channel charge: adding a half-size DUMMY switch (the textbook fix)
* changed the offset by 1.5 mV.  It is the **CURRENT SOURCE'S SETTLING TRANSIENT**: when the
* switch closes, the parasitic capacitance at the mirror's drain node has to be charged **FROM
* Ce**, and that is a FIXED charge, independent of I.
*
* ⇒ **KEEP THE CURRENT SOURCE RUNNING CONTINUOUSLY AND STEER ITS CURRENT** with a differential
*   pair: to Ce when the cell fires, to a DUMP node otherwise.  The source never turns on or off,
*   so Ce never sees a turn-on transient.  This is how current-steering DACs (and sigma-delta
*   feedback DACs) are built, and this is exactly why.
*
*   ⚠ The dump node must sit at ~the same potential as Ce, or the steering pair will see a large
*     differential and the current will not split cleanly. Tie it to V_bias_e.
* =============================================================================

* -- SINK: steer I_theta either to Ce (fire_up) or to the DUMP (idle) --------
Bfup_n  fire_up_n 0 V = v(vdd) - v(fire_up)
XMN_stA ve      fire_up    nsink vss sky130_fd_pr__nfet_01v8 w=2 l=0.15
XMN_stB vdump   fire_up_n  nsink vss sky130_fd_pr__nfet_01v8 w=2 l=0.15
XMN_cas nsink   vcn        ncas  vss sky130_fd_pr__nfet_01v8 w=2 l=0.5
XMN_src ncas    vbn        vss   vss sky130_fd_pr__nfet_01v8 w=2 l=1

* -- SOURCE: steer I_theta either to Ce (fire_dn) or to the DUMP (idle) ------
Bfdn_n  fire_dn_n 0 V = v(vdd) - v(fire_dn)
XMP_stA ve      fire_dn_n  nsrc  vdd sky130_fd_pr__pfet_01v8 w=4 l=0.15
XMP_stB vdump   fire_dn    nsrc  vdd sky130_fd_pr__pfet_01v8 w=4 l=0.15
XMP_cas nsrc    vcp        pcas  vdd sky130_fd_pr__pfet_01v8 w=4 l=0.5
XMP_src pcas    vbp        vdd   vdd sky130_fd_pr__pfet_01v8 w=4 l=1

.ends jug_residue


* =============================================================================
* Subcircuit: jug_comparator — the WINDOW comparator on Ce
* =============================================================================
* Ports:
*   ve        the Ce node
*   vbias     V_bias_e (the jug's rest voltage) — NOW A FREE VARIABLE (MN3_e is deleted, so
*             the old dual-tail triode constraint that pinned it to 0.65 V is GONE).
*             Set from the COMPARATOR's input common-mode range. Here: VCM = 0.9 V.
*   vth_hi    vbias + theta
*   vth_lo    vbias - theta
*   fire_up   HIGH when V_Ce >= vth_hi
*   fire_dn   HIGH when V_Ce <= vth_lo
*   vdd vss
*
* ⚠ MODELLED BEHAVIOURALLY, ON PURPOSE.  The comparator spec is EXTRAORDINARILY LOOSE (it may
* be wrong 20% of the time — see the header), so a transistor-level design is NOT where the
* risk is, and not where SPICE effort should go first.  The RESIDUE SUBTRACTION is the tight
* spec, and THAT is transistor-level above.
* A StrongARM latch or a simple 5T diff-amp + inverter chain will both be fine here; size it
* for the sweep rate (1024 elements per absorb sweep), not for precision.
* -----------------------------------------------------------------------------
.subckt jug_comparator ve vbias vth_hi vth_lo fire_up fire_dn vdd vss
Bup fire_up 0 V = 1.8 * (v(ve) >= v(vth_hi))
Bdn fire_dn 0 V = 1.8 * (v(ve) <= v(vth_lo))
.ends jug_comparator


* =============================================================================
* Subcircuit: jug_comparator_t — the WINDOW comparator, TRANSISTOR LEVEL
* =============================================================================
* Same ports as jug_comparator (drop-in). Two 5T OTAs (one per threshold) + a 2-inverter
* buffer each. NMOS input pairs — the common mode is 0.9 V, comfortably above their Vth.
*
*   fire_up = HIGH when V_Ce >= vth_hi     (OTA_up: in+ = ve,     in- = vth_hi)
*   fire_dn = HIGH when V_Ce <= vth_lo     (OTA_dn: in+ = vth_lo, in- = ve   )
*
* 5T OTA polarity: NMOS pair M1(in+)/M2(in-), PMOS mirror load (M3 diode on M1's drain,
* M4 on M2's drain = OUT). OUT rises when V(in+) > V(in-). Two inverters then square it to a
* rail-to-rail digital level (an even count => OUT polarity preserved).
*
* ⚠ WHY THIS IS ALLOWED TO BE A CHEAP 5T OTA, NOT A TRIMMED PRECISION COMPARATOR:
*   the comparator spec is EXTRAORDINARILY LOOSE (header): a x2 threshold mismatch costs 0.76pp,
*   and a WRONG SIGN 20% of the time costs 0.34pp, because the residue subtraction CONSERVES
*   CHARGE. The input-referred OFFSET of a modestly-sized 5T OTA (a few mV) is a small fraction
*   of theta (50 mV) — an order of margin. Size it for the SWEEP RATE (1024 cells/sweep), not
*   for precision. tb_jug_comparator.spice verifies thresholds, dead-zone, and speed.
*
* ★ The TIGHT spec is the residue subtraction (jug_residue, above) and the kT/C noise on Ce.
*   This block is deliberately the LAST thing built, and the least fussy.
* vbias is unused here (kept for port compatibility with the behavioural model).
* -----------------------------------------------------------------------------
.subckt jug_comparator_t ve vbias vth_hi vth_lo fire_up fire_dn vdd vss

* -- shared tail bias: 5 uA into a diode NMOS sets nbias; each OTA tail mirrors it ----
* (stand-in for the global bias-current mirror that feeds the whole array.)
Ibias   vdd nbias DC 5u
XMNbias nbias nbias vss vss sky130_fd_pr__nfet_01v8 w=2 l=1

* == OTA_up : OUT_u HIGH when ve > vth_hi ==================================
XMN_tu  ntu   nbias  vss  vss sky130_fd_pr__nfet_01v8 w=2 l=1        ; tail
XMN_1u  nAu   ve     ntu  vss sky130_fd_pr__nfet_01v8 w=4 l=0.5      ; in+  = ve
XMN_2u  OUu   vth_hi ntu  vss sky130_fd_pr__nfet_01v8 w=4 l=0.5      ; in-  = vth_hi
XMP_3u  nAu   nAu    vdd  vdd sky130_fd_pr__pfet_01v8 w=8 l=0.5      ; diode load
XMP_4u  OUu   nAu    vdd  vdd sky130_fd_pr__pfet_01v8 w=8 l=0.5      ; mirror load -> OUT_u
* 2-inverter buffer -> fire_up (polarity preserved)
XMP_iu1 iu1     OUu vdd vdd sky130_fd_pr__pfet_01v8 w=2 l=0.15
XMN_iu1 iu1     OUu vss vss sky130_fd_pr__nfet_01v8 w=1 l=0.15
XMP_iu2 fire_up iu1 vdd vdd sky130_fd_pr__pfet_01v8 w=2 l=0.15
XMN_iu2 fire_up iu1 vss vss sky130_fd_pr__nfet_01v8 w=1 l=0.15

* == OTA_dn : OUT_d HIGH when ve < vth_lo =================================
XMN_td  ntd   nbias  vss  vss sky130_fd_pr__nfet_01v8 w=2 l=1        ; tail
XMN_1d  nAd   vth_lo ntd  vss sky130_fd_pr__nfet_01v8 w=4 l=0.5      ; in+  = vth_lo
XMN_2d  OUd   ve     ntd  vss sky130_fd_pr__nfet_01v8 w=4 l=0.5      ; in-  = ve
XMP_3d  nAd   nAd    vdd  vdd sky130_fd_pr__pfet_01v8 w=8 l=0.5      ; diode load
XMP_4d  OUd   nAd    vdd  vdd sky130_fd_pr__pfet_01v8 w=8 l=0.5      ; mirror load -> OUT_d
XMP_id1 id1     OUd vdd vdd sky130_fd_pr__pfet_01v8 w=2 l=0.15
XMN_id1 id1     OUd vss vss sky130_fd_pr__nfet_01v8 w=1 l=0.15
XMP_id2 fire_dn id1 vdd vdd sky130_fd_pr__pfet_01v8 w=2 l=0.15
XMN_id2 fire_dn id1 vss vss sky130_fd_pr__nfet_01v8 w=1 l=0.15

.ends jug_comparator_t


* =============================================================================
* End of library
* =============================================================================
